US07435837B2
Treatment of (±)-(7-bromo-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate (0.50 g, 1.305 mmol) with (2,3-dimethyl-phenyl)boronic acid (0.294 g, 1.96 mmol), dichlorobis(tri-o-tolylphosphine)-palladium(II) (0.041 g, 0.052 mmol), and potassium carbonate (0.41 g, 3.25 mmol) generally according to the procedure described for Intermediate 37 provided 0.335 g (62%) of (±)-[7-(2,3-dimethylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate. Treatment of (±)-[7-(2,3-dimethylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate with sodium azide (0.134 g, 2.06 mmol) generally according to the procedure described for Intermediate 98 afforded (±)-2-(azidomethyl)-7-(2,3-dichlorophenyl)-2,3-dihydro-1-benzofuran-7 amine. To a solution of (±)-2-(azidomethyl)-7-(2,3-dichlorophenyl)-2,3-dihydro-1-benzofuran-7 amine (0.135 g, 1.483 mmol) in tetrahydrofuran (5 mL) was added polymer supported triphenyl phosphine (0.152 g, 0.58 mmol) and the reaction mixture was allowed to stir at room temperature for 12 h. The reaction mixture was filtered (celite) and the solvent removed in vacuo to provide a colorless oil. The oil was re-dissolved in isopropanol (3 mL) and hydrogen chloride (1.0 N in diethyl ether, 10.0 mL) was added. The resulting precipitate was filtered, washed (diethyl ether), and dried to afford 0.075 g (54%) of (±)-1-[7-(2,3-dimethylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine as a white solid, hydrochloride salt. mp >225° C.:

reactant | (±)-(7-bromo-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate | 1.305 mmol, 0.50 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=CC=C2Br | C16H15BrO4S
reactant | (2,3-dimethyl-phenyl)boronic acid | 1.96 mmol, 0.294 g | CC1=C(C=CC=C1C)B(O)O | C8H11BO2
reactant | potassium carbonate | 3.25 mmol, 0.41 g | C([O-])([O-])=O.[K+].[K+]
catalyst | dichlorobis(tri-o-tolylphosphine)-palladium(II) | 0.052 mmol, 0.041 g | CC1=C([P](C2=C(C)C=CC=C2)([Pd]([P](C3=C(C)C=CC=C3)(C4=C(C)C=CC=C4)C(C=CC=C5)=C5C)(Cl)Cl)C6=C(C)C=CC=C6)C=CC=C1
product | (±)-[7-(2,3-dimethylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate | 0.335 g, 62% | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=CC=C2C2=C(C(=CC=C2)C)C | C24H24O4S
